US04965270
9-(2,3-Dihydroxyprop-1-oxy)guanine
2-Amino-6-chloro-9-(2,3-dihydroxyprop-1-oxy)purine (100 mg, 0.39 mmol) was dissolved in 80% formic acid solution and stirred at 100° C. for 2.5 hours. The reaction was evaporated to dryness under reduced pressure and the residue treated with methanol (5 ml) and 0.88 ammonia solution (3 ml). After stirring the reaction at 60° C. for 2 hours, the solvents were evaporated under reduced pressure and the residue recrystallised from water yielding the title compound (35 mg, 38%), m.p. 252°-3° C. Uv: λmax (H2O) 252 (ε12,600) nm; IR: υmax (KBr) 3330, 1690, 1640, 1605, 1540, 1475 cm-1 ; 1H NMR: δH [(CD3)2SO] 3.39 (2H, m, CH2OH), 3.72 (1H, m, CHOH), 4.10 (1H, dd, J=10.7, 7.6 Hz, 7.6 Hz, CH2ON), 4.33 (1H, dd, J=10.5, 3.3 Hz, CH2ON), 4.70 (1H, t, J= 5.7 Hz, OH), 5.15 (1H, d, J=5.2 Hz, OH), 6.62 (2H, br.s, NH2), 7.90 (1H, s, H-8), 10.58 (1H, br.s, NH); m/z 241 (M+, 3%), 210 (2), 167 (27), 151 (100), 109 (20), 61 (47). Found: C, 38.85; H, 4.66; N, 29.14%, M+ 241.0813. C8H11N5O4 requires C, 39.84; H, 4.60; N, 29.03%, M+ 241.0811.

reactant | 2-Amino-6-chloro-9-(2,3-dihydroxyprop-1-oxy)purine | 0.39 mmol, 100 mg | NC1=NC(=C2N=CN(C2=N1)OCC(CO)O)Cl | C8H10ClN5O3
reactant | formic acid | C(=O)O | CH2O2
product | 9-(2,3-Dihydroxyprop-1-oxy)guanine | OC(CON1C=2N=C(NC(C2N=C1)=O)N)CO | C8H11N5O4
